*$
*PART NUMBER:NJU77903
*CMOS OPAMP
*Version:1
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.SUBCKT NJU77903 +IN -IN V+ V- OUT
X1 +IN -IN V+ V- OUT nju77903_s
.ENDS NJU77903
*$
* connections:    	non-inverting input
*                 	| inverting input
*                 	| | positive power supply
*                 	| | | negative power supply
*                 	| | | | output
*                 	| | | | |
*                 	| | | | |
.subckt nju77903_s	1 2 3 4	5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 10 4 {ITL}
M1 11 2 13 13 NMOS1 
M2 12 NET1 14 14 NMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 3 11 {RD1}
RD2 3 12 {RD2}
RS1 13 10 {RS2}
RS2 14 10 {RS1}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 {VS}
VD 3 18 {VD}
*
.MODEL DMOD1 D(T_MEASURED= 25 IS= 8.11E-09)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL NMOS1 NMOS(LEVEL=1 VTO=1.58E+00
+ KP=8.92E-06 L={L_VAL} W={W_VAL} TOX=9.60E-08 U0=2.48E+02)
.MODEL NMOS2 NMOS(LEVEL=1 VTO=1.58E+00
+ KP=8.92E-06 L={L_VAL} W={W_VAL} TOX=9.60E-08 U0=2.48E+02)
*
.PARAM
+ C1   = 2.17E-12
+ C2   = 1.62E-11
+ CS   = 1.03E-12
+ GCM  = 2.72E-08
+ GA   = 1.53E-04
+ GB   = 4362.02
+ GC   = 3489569.493
+ ITL  = 6.025E-05
+ RS   = 3.33E+06
+ RD1  = 6543.04
+ RD2  = 6543.04
+ RC   = 2.83E-07
+ RS1  = 3654.38
+ RS2  = 3654.38
+ RO1  = 2
+ RO2  = 1.5
+ RP   = 1.27E+03
+ VD   = 0.877578442
+ VS   = 0.875568442
+ VOS  = 2.0462E-04
+ VRD  = 0.00E+00
+ L_VAL= 5.00E-12
+ W_VAL= 1.12E-09

.ends nju77903_s
*$
